US07285563B2
2-Cyano-5-(trifluoromethyl)pyridine
To an ice-cooled solution of 5-(trifluoromethyl)pyridin-2-ol (10.24 g, 62.8 mmol) in anhydrous dichloromethane (200 ml) was added triethylamine (9.63 ml, 69 mmol), followed by dropwise addition of trifluoromethanesulfonic anhydride (12.68 ml, 75.4 mmol). The resulting mixture was stirred at room temperature for 2 hours. The mixture was washed with water (500 ml) and the aqueous layer extracted with dichloromethane (2×100 ml). The combined organic layers were washed with water (2×300 ml), brine (150 ml), then dried over Na2SO4, filtered through a 1 inch plug of silica gel and evaporated. The residue was dissolved in anhydrous N,N-dimethylformamide (150 ml) and zinc cyanide (3.98 g, 33.9 mmol) was added followed by tetrakis(triphenylphosphine)palladium(0) (Pd(PPh3)4) (3.56 g, 3.09 mmol). The mixture was degassed and heated at 80° C. overnight. The cooled reaction mixture was diluted with water (600 ml) and extracted with ethyl acetate (3×150 ml). The combined organic layers were washed with water (2×250 ml), brine (150 ml), dried (Na2SO4) and evaporated. The residue was purified by column chromatography on silica eluting with a gradient rising from neat iso-hexanes to 10% Et2O in iso-hexanes to give the title compound (8 g, 75%) as a white solid.

reactant | 5-(trifluoromethyl)pyridin-2-ol | 62.8 mmol, 10.24 g | FC(C=1C=CC(=NC1)O)(F)F | C6H4F3NO
reactant | triethylamine | 69 mmol, 9.63 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 75.4 mmol, 12.68 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | 600 ml | O | H2O
catalyst | zinc cyanide | 33.9 mmol, 3.98 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 3.09 mmol, 3.56 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Cyano-5-(trifluoromethyl)pyridine | 8 g, 75% | C(#N)C1=NC=C(C=C1)C(F)(F)F | C7H3F3N2
